US06358948B1
1-Methyl-5-(2,4,4-trimethyl-1,4-dihydro-2H-3,1-benzoxazin-6-yl)-1H-pyrrole-2-carbonitrile
Prepared according to the procedure for Example 20 from 9H-fluoren-9-ylmethyl 6-(5-cyano-1-methyl-1H-pyrrol-2-yl)-2,4,4-trimethyl-2H-3,1-benzoxazine-1(4H)-carboxylate (0.3 g, 0.6 mmol) and 20% piperidine in DMF. A white solid (0.07 g, 42%): mp 195-196° C.; 1H-NMR (DMSO-d6) δ 7.16 (d, 1H, J=2.8 Hz), 7.08 (dd, 1H, J=8.1, 1.9 Hz), 6.98 (d, 1H, J=4.1 Hz), 6.63 (d, 1H, J=8.5 Hz), 6.61 (s, 1H), 6.20 (d, 1H, J=4.1 Hz), 4.79-4.81 (m, 1H), 3.67 (s, 3H), 1.49 (s, 3H), 1.27 (d, 3H, J=5.5 Hz); MS (ESI) m/z 282 [M+H]+.

reactant | 9H-fluoren-9-ylmethyl 6-(5-cyano-1-methyl-1H-pyrrol-2-yl)-2,4,4-trimethyl-2H-3,1-benzoxazine-1(4H)-carboxylate | 0.6 mmol, 0.3 g | C(#N)C1=CC=C(N1C)C=1C=CC2=C(C(OC(N2C(=O)OCC2C3=CC=CC=C3C=3C=CC=CC23)C)(C)C)C1 | C32H29N3O3
reactant | piperidine | N1CCCCC1 | C5H11N
solvent | DMF | CN(C)C=O | C3H7NO
product | 1-Methyl-5-(2,4,4-trimethyl-1,4-dihydro-2H-3,1-benzoxazin-6-yl)-1H-pyrrole-2-carbonitrile | CN1C(=CC=C1C=1C=CC2=C(C(OC(N2)C)(C)C)C1)C#N | C17H19N3O
